US08445684B2
To a suspension of lithium aluminum hydride (45 mg, 1.2 mmol, 5.0 equiv.) in THF (1.5 mL) was added a solution of 3-[4-[2-(benzyloxy)ethyl]-1-piperidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]pyridine (115 mg, 0.24 mmol) in THF (0.5 mL). The mixture was refluxed for 1 h, then cooled to room temperature. To a flask containing 4-5 g of Na2SO4 was added with stirring 40-50 mL of Et2O followed by the cooled reaction mixture. Water was subsequently added dropwise to quench residual hydride. When no more gas was generated, the mixture was filtered, and the solid phase was washed with CH2Cl2/MeOH 4:1 (100-150 mL). Solvent removal furnished crude 3-[4-[2-(benzyloxy)ethyl]-1-piperidinyl]-5-[(1-methyl-2(S)-azetidinyl)methoxy]pyridine (97 mg, 100%), which was used in the following step without purification.

reactant | lithium aluminum hydride | 1.2 mmol, 45 mg, 5.0 equiv. | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-[4-[2-(benzyloxy)ethyl]-1-piperidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]pyridine | 0.24 mmol, 115 mg | C(C1=CC=CC=C1)OCCC1CCN(CC1)C=1C=NC=C(C1)OC[C@H]1N(CC1)C(=O)OC(C)(C)C | C28H39N3O4
reactant | Na2SO4 | 4-5 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | Et2O | 40-50 mL | CCOCC | C4H10O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 3-[4-[2-(benzyloxy)ethyl]-1-piperidinyl]-5-[(1-methyl-2(S)-azetidinyl)methoxy]pyridine | 97 mg, 100% | C(C1=CC=CC=C1)OCCC1CCN(CC1)C=1C=NC=C(C1)OC[C@H]1N(CC1)C | C24H33N3O2
